US09238639B2
E) Methyl(4-fluoro-6-hydroxy-1-benzothiophen-3-yl)acetate
To a suspension of aluminum chloride (713 mg) in toluene (10 mL) was added dodecane-1-thiol (4.00 mL) at 0° C. After stirring at 0° C. for 30 min, a solution of methyl(4-fluoro-6-methoxy-1-benzothiophen-3-yl)acetate (850 mg) in toluene (10 mL) was added dropwise to the mixture. The mixture was stirred at room temperature for 45 h. To the mixture was added aluminum chloride (713 mg) again, and the mixture was stirred at room temperature for 4 h. The mixture was poured into ice water. To the mixture was added 6N HCl, and the mixture was extracted with EtOAc. The EtOAc extract was washed successively with 1N HCl and brine, dried over MgSO4, and concentrated in vacuo. A mixture of the residue, conc. H2SO4 (0.5 mL) and MeOH (50 mL) was stirred at 75° C. for 4 h then concentrated in vacuo. To the residue was added saturated aqueous NaHCO3 and the mixture was extracted with EtOAc. The EtOAc extract was washed with brine, dried over MgSO4, and concentrated in vacuo. The residual crystals were washed with toluene and IPE to give the title compound (330 mg). The mother liquid was concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (180 mg). Total yield, 510 mg. The crystals were recrystallized from acetone-hexane.

reactant | aluminum chloride | 713 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | dodecane-1-thiol | 4.00 mL | C(CCCCCCCCCCC)S | C12H26S
reactant | methyl(4-fluoro-6-methoxy-1-benzothiophen-3-yl)acetate | 850 mg | COC(CC1=CSC2=C1C(=CC(=C2)OC)F)=O | C12H11FO3S
reactant | aluminum chloride | 713 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | 6N | Cl | ClH
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl(4-fluoro-6-hydroxy-1-benzothiophen-3-yl)acetate | 330 mg | COC(CC1=CSC2=C1C(=CC(=C2)O)F)=O | C11H9FO3S
